US05602170
2.40 g of 2,2'-bithiophene was dissolved in 8 ml of acetic anhydride and refluxed under nitrogen gas atmosphere. 6 drops of phosphoric acid (85%) was added and reacted for 5 hours. The reaction mixture was poured onto 200 g of crushed ice cubes and stirred for 1 h. The solid deposited was collected and vacuum distilled, 5-acetyl-2,2'-bithiophene 1.98 g was obtained at 148° C./0.8 mm-Hg and the melting point was 112°-113° C. The residue was recrystallized from dioxane and 0.25 g of 5,5'-diacetyl-2,2'-bithiophene with melting point of 236°-9° C. was obtained.

reactant | 2,2'-bithiophene | 2.40 g | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | phosphoric acid | 6 drops | P(O)(O)(O)=O | H3O4P
product | 5-acetyl-2,2'-bithiophene | 1.98 g | C(C)(=O)C1=CC=C(S1)C=1SC=CC1 | C10H8OS2
